US05840732
ii) Synthesis of 5-octylidene-3-[4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]thiazolidine-2,4-dione hydrochloride
To a solution of 1.54 g (3.57 mmol) of 5-octylidene-3-[4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]thiazolidine-2,4-dione in 30 ml of methanol, 0.34 ml of concentrated hydro-chloric acid was added. After the solvent was distilled off, the residue was washed with diethyl ether to yield 1.65 g (98.7%, yellow-orange oily substance) of the desires product.

reactant | 5-octylidene-3-[4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]thiazolidine-2,4-dione | 3.57 mmol, 1.54 g | C(CCCCCCC)=C1C(N(C(S1)=O)CCCCSC1=CC=CC=2N1C=CN2)=O | C22H29N3O2S2
reactant | hydro-chloric acid | 0.34 ml | Cl | ClH
solvent | methanol | 30 ml | CO | CH4O
product | 5-octylidene-3-[4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]thiazolidine-2,4-dione hydrochloride | Cl.C(CCCCCCC)=C1C(N(C(S1)=O)CCCCSC1=CC=CC=2N1C=CN2)=O | InChI=1S/C22H29N3O2S2.ClH/c1-2-3-4-5-6-7-11-18-21(26)25(22(27)29-18)15-8-9-17-28-20-13-10-12-19-23-14-16-24(19)20;/h10-14,16H,2-9,15,17H2,1H3;1H
